US04206309
1-Phenyl-3-(2-vinyloxyethyl)-hydantoin
16.12 g (0.1 mol) of 1-phenylhydantoin, 12.25 g (0.1 mol+15% excess) of 2-chloroethyl vinyl ether, 7.25 g (0.05 mol+5% excess) of potassium carbonate and 50 ml of dimethylformamide are reacted for 1 hour at 120°-125° C. The reaction mixture is worked up analogously to Example 1 and 20.3 g (82.4% of theory) of a brownish, crystalline crude product melting at 119°-120° C. are obtained. 5 g of crude product are recrystallised from 25 ml of chloroform and 3.9 g of the pure compound are isolated. The melting point is 120°-121° C.

reactant | 1-phenylhydantoin | 0.1 mol, 16.12 g | C1(=CC=CC=C1)N1C(=O)NC(=O)C1 | C9H8N2O2
reactant | 2-chloroethyl vinyl ether | 0.1 mol, 12.25 g | C(=C)OCCCl | C4H7ClO
reactant | potassium carbonate | 0.05 mol, 7.25 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 1-Phenyl-3-(2-vinyloxyethyl)-hydantoin | C1(=CC=CC=C1)N1C(=O)N(C(=O)C1)CCOC=C | C13H14N2O3
